current-steering dac inl test

.option gmin=1e-19 reltol=200u abstol=100f vntol=100n seed=1

.param mc_mm_switch = 1
.param vdd = 1.5

vdd vdd 0 dc vdd
xdac1 vdd 0 b11 b12 b13 b14 b15 b16 b17 b18 b19 b110 b111 b112 b113 b114 b115 b116 bb11 bb12 bb13 bb14 bb15 bb16 bb17 bb18 bb19 bb110 bb111 bb112 bb113 bb114 bb115 bb116 outp1 outn1 dac
xdac2 vdd 0 b21 b22 b23 b24 b25 b26 b27 b28 b29 b210 b211 b212 b213 b214 b215 b216 bb21 bb22 bb23 bb24 bb25 bb26 bb27 bb28 bb29 bb210 bb211 bb212 bb213 bb214 bb215 bb216 outp2 outn2 dac
rlp1 outp1 0 0.02
rln1 outn1 0 0.02
rlp2 outp2 0 0.02
rln2 outn2 0 0.02
e1 out1 0 outp1 outn1 10
rl1 out1 0 1k
e2 out out1 outp2 outn2 10
rl2 out 0 1k

.op

.save v(out) v(out1)

.subckt pfet d g s b
.param mfac = 1
xm d g s b sky130_fd_pr__pfet_01v8_lvt l=350n w=550n as=145.75f ad=145.75f ps=1.63u pd=1.63u mult=mfac m=mfac
.ends

.subckt cell vdd vss bp b bb outp outn weight=1
c1 d1 vdd '20f*weight'
c2 bp vdd '20f*weight'
xm1 d1 bp vdd vdd pfet mfac=weight
xm2p outp bb d1 vdd pfet mfac=weight
xm2n outn b d1 vdd pfet mfac=weight
.ends

.subckt dac vdd vss b1 b2 b3 b4 b5 b6 b7 b8 b9 b10 b11 b12 b13 b14 b15 b16 bb1 bb2 bb3 bb4 bb5 bb6 bb7 bb8 bb9 bb10 bb11 bb12 bb13 bb14 bb15 bb16 outp outn
xmb1 bp bp vdd vdd pfet mfac=1
xmb2 0 0 bp vdd pfet mfac=1
xdc1 vdd 0 bp b1 bb1 outp outn cell weight=1
xdc2 vdd 0 bp b2 bb2 outp outn cell weight=2
xdc3 vdd 0 bp b3 bb3 outp outn cell weight=4
xdc4 vdd 0 bp b4 bb4 outp outn cell weight=8
xdc5 vdd 0 bp b5 bb5 outp outn cell weight=16
xdc6 vdd 0 bp b6 bb6 outp outn cell weight=32
xdc7 vdd 0 bp b7 bb7 outp outn cell weight=64
xdc8 vdd 0 bp b8 bb8 outp outn cell weight=128
xdc9 vdd 0 bp b9 bb9 outp outn cell weight=256
xdc10 vdd 0 bp b10 bb10 outp outn cell weight=512
xdc11 vdd 0 bp b11 bb11 outp outn cell weight=1024
xdc12 vdd 0 bp b12 bb12 outp outn cell weight=2048
xdc13 vdd 0 bp b13 bb13 outp outn cell weight=4096
xdc14 vdd 0 bp b14 bb14 outp outn cell weight=8192
xdc15 vdd 0 bp b15 bb15 outp outn cell weight=16384
xdc16 vdd 0 bp b16 bb16 outp outn cell weight=32768
.ends

.param
+ sky130_fd_pr__pfet_01v8_lvt__ajunction_mult = 9.9626e-1
+ sky130_fd_pr__pfet_01v8_lvt__pjunction_mult = 1.0009e+0
+ sky130_fd_pr__pfet_01v8_lvt__wkvth0_diff = .73e-6
+ sky130_fd_pr__pfet_01v8_lvt__lkvth0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__wlod_diff = .0e-6
+ sky130_fd_pr__pfet_01v8_lvt__ku0_diff = 5.9e-8
+ sky130_fd_pr__pfet_01v8_lvt__lku0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__wku0_diff = 0.0
+ sky130_fd_pr__pfet_01v8_lvt__kvsat_diff = .0e-6
+ sky130_fd_pr__pfet_01v8_lvt__kvth0_diff = 1.76e-8

.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope=3.689e-09
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope1=1.489e-08
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope2=1.689e-08
.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope3=2.389e-08
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope=1.389e-08
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope1=9.789e-09
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope2=1.089e-08
.param sky130_fd_pr__pfet_01v8_lvt__lint_slope=0
.param sky130_fd_pr__pfet_01v8_lvt__wint_slope=0
.param sky130_fd_pr__pfet_01v8_lvt__nfactor_slope=0.0
.param sky130_fd_pr__pfet_01v8_lvt__voff_slope=0.0

.param sky130_fd_pr__pfet_01v8_lvt__toxe_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__vth0_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__voff_slope_spectre = 0.0
.param sky130_fd_pr__pfet_01v8_lvt__nfactor_slope_spectre = 0.0

.subckt  sky130_fd_pr__pfet_01v8_lvt d g s b
+ 
.param  l = 1 w = 1 nf = 1.0 ad = 0 as = 0 pd = 0 ps = 0 nrd = 0 nrs = 0 sa = 0 sb = 0 sd = 0 mult = 1
msky130_fd_pr__pfet_01v8_lvt d g s b sky130_fd_pr__pfet_01v8_lvt__model l = {l} w = {w} nf = {nf} ad = {ad} as = {as} pd = {pd} ps = {ps} nrd = {nrd} nrs = {nrs} sa = {sa} sb = {sb} sd = {sd}
.model sky130_fd_pr__pfet_01v8_lvt__model pmos
* DC IV MOS Parameters
+ lmin = 3.5e-07 lmax = 5e-07 wmin = 5.5e-07 wmax = 1.0e-6
+ level = 54.0
+ tnom = 30.0
+ version = 4.5
+ toxm = 4.23e-9
+ xj = 1.5e-7
+ lln = 1.0
+ lwn = 1.0
+ wln = 1.0
+ wwn = 1.0
+ lint = 2.8e-9
+ ll = 0.0
+ lw = 0.0
+ lwl = 0.0
+ wint = 7.476e-9
+ wl = 0.0
+ ww = 0.0
+ wwl = 0.0
+ xl = 0.0
+ xw = 0.0
+ mobmod = 0.0
+ binunit = 2.0
+ dwg = -7.916e-9
+ dwb = 0.0
* BSIM4 - Model Selectors
+ igcmod = 0.0
+ igbmod = 0.0
+ rgatemod = 0.0
+ rbodymod = 1.0
+ trnqsmod = 0.0
+ acnqsmod = 0.0
+ fnoimod = 1.0
+ tnoimod = 1.0
+ permod = 1.0
+ geomod = 0.0
+ rdsmod = 0.0
+ tempmod = 0.0
+ lintnoi = 0.0
+ vfbsdoff = 0.0
+ lambda = 0.0
+ vtl = 0.0
+ lc = 5.0e-9
+ xn = 3.0
+ rnoia = 0.69
+ rnoib = 0.34
+ tnoia = 25000000.0
+ tnoib = 0.0
* BSIM4 - Process Parameters
+ epsrox = 3.9
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__toxe_slope_spectre)
+ toxe = {4.23e-09+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(4.23e-09*(sky130_fd_pr__pfet_01v8_lvt__toxe_slope3/sqrt(l*w*mult)))}
+ dtox = 0.0
+ ndep = 1.7000000000000000e+17
+ nsd = 1.0e+20
+ rshg = 0.1
+ rsh = 1.0
* Threshold Voltage Parameters
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__vth0_slope_spectre)
+ vth0 = {-1.782289999e-01+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__vth0_slope1/sqrt(l*w*mult))} lvth0 = -7.222604304e-08 wvth0 = -1.348985490e-07 pvth0 = 4.954643417e-14
+ k1 = 0.64774
+ k2 = -4.695523411e-02 lk2 = 4.071953082e-09 wk2 = -1.048260450e-08 pk2 = 6.073815561e-15
+ k3 = 3.39
+ dvt0 = 2.4422
+ dvt1 = 0.16136
+ dvt2 = 0.026237
+ dvt0w = 0.5
+ dvt1w = 1928100.0
+ dvt2w = -0.032
+ w0 = 1.0e-8
+ k3b = 1.0
* NEW BSIM4 Parameters for Level 54
+ phin = 0.0
+ lpe0 = 0.0
+ lpeb = 0.0
+ vbm = -3.0
+ dvtp0 = 0.0
+ dvtp1 = 0.0
* Mobility Parameters
+ vsat = 1.729186447e+05 lvsat = -1.976658997e-02 wvsat = -6.300395056e-02 pvsat = 1.733533569e-8
+ ua = -3.076683126e-09 lua = 6.229870963e-17 wua = 2.386014056e-16 pua = -1.060940094e-22
+ ub = 2.612994519e-18 lub = 1.905974519e-25 wub = -8.036427329e-26 pub = 6.115694775e-32
+ uc = 1.607392219e-11 luc = 1.380586924e-17 wuc = 4.015260322e-17 puc = -1.359944388e-23
+ rdsw = 484.7
+ prwb = 0.1
+ prwg = 0.052
+ wr = 1.0
+ u0 = 9.335311068e-04 lu0 = 6.553868693e-10 wu0 = 1.170785149e-09 pu0 = -4.005819962e-16
+ a0 = 1.1627
+ keta = -1.727227166e-02 lketa = 1.876040360e-09 wketa = 2.914551807e-09 pketa = -1.003771642e-15
+ a1 = 0.0
+ a2 = 0.46703705
+ ags = -7.446080985e-01 lags = 3.523067795e-07 wags = 9.865926523e-07 pags = -3.470390885e-13
+ b0 = 7.894683512e-07 lb0 = -4.041704517e-13 wb0 = -7.386199123e-13 pb0 = 3.251555372e-19
+ b1 = -1.841702328e-06 lb1 = 7.894705525e-13 wb1 = 1.711615945e-12 pb1 = -6.725137054e-19
* BSIM4 - Mobility Parameters
+ eu = 1.67
+ rdswmin = 0.0
+ rdw = 0.0
+ rdwmin = 0.0
+ rsw = 0.0
+ rswmin = 0.0
* Subthreshold Current Parameters
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__voff_slope_spectre)
+ voff = {-0.1819+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__voff_slope/sqrt(l*w*mult))}
*(mismatch parameter sky130_fd_pr__pfet_01v8_lvt__nfactor_slope_spectre)
+ nfactor = {2.5373+MC_MM_SWITCH*AGAUSS(0,1.0,1)*(sky130_fd_pr__pfet_01v8_lvt__nfactor_slope/sqrt(l*w*mult))}
+ up = 0.0
+ ud = 0.0
+ lp = 1.0
+ tvfbsdoff = 0.0
+ tvoff = 0.0
+ cit = -6.393105e-11
+ cdsc = 2.8125e-7
+ cdscb = 1.0e-4
+ cdscd = 1.0e-10
+ eta0 = 0.2
+ etab = -0.00025
+ dsub = 1.0
* BSIM4 - Sub-threshold parameters
+ voffl = 0.0
+ minv = 0.0
* Rout Parameters
+ pclm = 0.030097
+ pdiblc1 = 0.0
+ pdiblc2 = -2.703778191e-03 lpdiblc2 = 9.640935270e-09 wpdiblc2 = -4.489995143e-08 ppdiblc2 = 3.814731091e-14
+ pdiblcb = -0.025
+ drout = 0.43496
+ pscbe1 = 800000000.0
+ pscbe2 = 8.6797e-9
+ pvag = 0.0
+ delta = 1.509909476e-01 ldelta = -2.800512739e-08 wdelta = -6.545113965e-08 pdelta = 1.652434138e-14
+ alpha0 = 5.0449517e-13
+ alpha1 = -4.0583656e-18
+ beta0 = 6.2016506
* BSIM4 - Rout Parameters
+ fprout = 0.0
+ pdits = 0.0
+ pditsl = 0.0
+ pditsd = 0.0
* BSIM4 - Gate Induced Drain Leakage Model Parameters
+ agidl = 0.0
+ bgidl = 2300000000.0
+ cgidl = 0.5
+ egidl = 0.8
* BSIM4 - Gate Leakage Current Parameters
+ aigbacc = 0.43
+ bigbacc = 0.054
+ cigbacc = 0.075
+ nigbacc = 1.0
+ aigbinv = 0.35
+ bigbinv = 0.03
+ cigbinv = 0.006
+ eigbinv = 1.1
+ nigbinv = 3.0
+ aigc = 0.43
+ bigc = 0.054
+ cigc = 0.075
+ nigc = 1.0
+ aigsd = 0.43
+ bigsd = 0.054
+ cigsd = 0.075
+ dlcig = 0.0
+ poxedge = 1.0
+ pigcd = 1.0
+ ntox = 1.0
+ toxref = 4.23e-9
* Temperature Effects Parameters
+ kt1 = -7.924373247e-01 lkt1 = 6.087865133e-08 wkt1 = 1.276072598e-07 pkt1 = -4.798161401e-14
+ kt2 = 1.626020472e-01 lkt2 = -8.539089664e-08 wkt2 = -1.326603614e-07 pkt2 = 4.568822846e-14
+ at = -4.433949910e+04 lat = 2.869593405e-02 wat = 1.874991537e-01 pat = -6.980799686e-8
+ ute = -8.127409949e-01 lute = 2.067746586e-07 wute = 5.193692717e-07 pute = -1.788707772e-13
+ ua1 = 1.972651465e-09 lua1 = -4.303214166e-16 wua1 = -6.685325589e-16 pua1 = 2.302426133e-22
+ ub1 = -2.955731024e-18 lub1 = 9.378910967e-25 wub1 = 1.375089403e-24 pub1 = -4.735807904e-31
+ uc1 = -1.642735167e-10 luc1 = 6.690779914e-17 wuc1 = 1.039456565e-16 puc1 = -3.579888411e-23
+ kt1l = 0.0
+ prt = 0.0
* BSIM4 - High Speed RF Model Parameters
+ xrcrg1 = 12.0
+ xrcrg2 = 1.0
+ rbpb = 50.0
+ rbpd = 50.0
+ rbps = 50.0
+ rbdb = 50.0
+ rbsb = 50.0
+ gbmin = 1.0e-12
* BSIM4 - Flicker and Thermal Noise Parameters
+ noia = 3.0e+41
+ noib = 0.0
+ noic = 0.0
+ em = 41000000.0
+ af = 1.0
+ ef = 0.88
+ kf = 0.0
+ ntnoi = 1.0
* BSIM4 - Layout Dependent Parasitic Model Parameters
+ dmcg = 0.0
+ dmcgt = 0.0
+ dmdg = 0.0
+ xgw = 0.0
+ xgl = 0.0
+ ngcon = 1.0
* Diode DC IV Parameters
* BSIM4 - Diode DC IV parameters
+ diomod = 1.0
+ njs = 1.3632
+ jss = 2.1483e-5
+ jsws = 1.4472e-10
+ xtis = 5.2
+ bvs = 12.69
+ xjbvs = 1.0
+ ijthsrev = 0.1
+ ijthsfwd = 0.1
* Diode and FET Capacitance Parameters
+ tpb = 0.001671
+ tpbsw = 0.001246
+ tpbswg = 0.0
+ tcj = 0.0012407
+ tcjsw = 0.00037357
+ tcjswg = 2.0e-12
+ cgdo = 2.0e-11
+ cgso = 2.0e-11
+ cgbo = 1.0e-13
+ capmod = 2.0
+ xpart = 0.0
+ cgsl = 0.0
+ cgdl = 0.0
+ cf = 0.0
+ clc = 7.0e-8
+ cle = 0.492
+ dlc = -1.2e-8
+ dwc = 0.0
+ vfbcv = -1.0
+ acde = 0.44
+ moin = 8.7
+ noff = 2.6123
+ voffcv = 0.112
+ ngate = 1.0e+23
+ lwc = 0.0
+ llc = 0.0
+ lwlc = 0.0
+ wlc = 0.0
+ wwc = 0.0
+ wwlc = 0.0
* BSIM4 - FET and Diode capacitance parameters
+ ckappas = 0.6
+ cjs = 0.0007653568198
+ mjs = 0.3362
+ pbs = 0.6587
+ cjsws = 9.1602368e-11
+ mjsws = 0.2659
+ pbsws = 0.7418
+ cjswgs = 2.39155046e-10
+ mjswgs = 0.9274
+ pbswgs = 1.4338
* Stress Parameters
+ saref = 1.44e-6
+ sbref = 1.44e-6
+ wlod = {0+sky130_fd_pr__pfet_01v8_lvt__wlod_diff}
+ kvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__kvth0_diff}
+ lkvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__lkvth0_diff}
+ wkvth0 = {0+sky130_fd_pr__pfet_01v8_lvt__wkvth0_diff}
+ pkvth0 = 0.0
+ llodvth = 0.0
+ wlodvth = 1.0
+ stk2 = 0.0
+ lodk2 = 1.0
+ lodeta0 = 1.0
+ ku0 = {0+sky130_fd_pr__pfet_01v8_lvt__ku0_diff}
+ lku0 = {0+sky130_fd_pr__pfet_01v8_lvt__lku0_diff}
+ wku0 = {0+sky130_fd_pr__pfet_01v8_lvt__wku0_diff}
+ pku0 = 0.0
+ llodku0 = 0.0
+ wlodku0 = 1.0
+ kvsat = {0+sky130_fd_pr__pfet_01v8_lvt__kvsat_diff}
+ steta0 = 0.0
+ tku0 = 0.0
.ends sky130_fd_pr__pfet_01v8_lvt

vb11 b11 0 dc 0
vb12 b12 0 dc 0
vb13 b13 0 dc 0
vb14 b14 0 dc 0
vb15 b15 0 dc 0
vb16 b16 0 dc 0
vb17 b17 0 dc 0
vb18 b18 0 dc 0
vb19 b19 0 dc 0
vb110 b110 0 dc 0
vb111 b111 0 dc 0
vb112 b112 0 dc 0
vb113 b113 0 dc 0
vb114 b114 0 dc 0
vb115 b115 0 dc 0
vb116 b116 0 dc 0
vbb11 bb11 0 dc 1.5
vbb12 bb12 0 dc 1.5
vbb13 bb13 0 dc 1.5
vbb14 bb14 0 dc 1.5
vbb15 bb15 0 dc 1.5
vbb16 bb16 0 dc 1.5
vbb17 bb17 0 dc 1.5
vbb18 bb18 0 dc 1.5
vbb19 bb19 0 dc 1.5
vbb110 bb110 0 dc 1.5
vbb111 bb111 0 dc 1.5
vbb112 bb112 0 dc 1.5
vbb113 bb113 0 dc 1.5
vbb114 bb114 0 dc 1.5
vbb115 bb115 0 dc 1.5
vbb116 bb116 0 dc 1.5
vb21 b21 0 dc 0
vb22 b22 0 dc 0
vb23 b23 0 dc 0
vb24 b24 0 dc 0
vb25 b25 0 dc 0
vb26 b26 0 dc 0
vb27 b27 0 dc 0
vb28 b28 0 dc 0
vb29 b29 0 dc 0
vb210 b210 0 dc 0
vb211 b211 0 dc 0
vb212 b212 0 dc 0
vb213 b213 0 dc 0
vb214 b214 0 dc 0
vb215 b215 0 dc 0
vb216 b216 0 dc 0
vbb21 bb21 0 dc 1.5
vbb22 bb22 0 dc 1.5
vbb23 bb23 0 dc 1.5
vbb24 bb24 0 dc 1.5
vbb25 bb25 0 dc 1.5
vbb26 bb26 0 dc 1.5
vbb27 bb27 0 dc 1.5
vbb28 bb28 0 dc 1.5
vbb29 bb29 0 dc 1.5
vbb210 bb210 0 dc 1.5
vbb211 bb211 0 dc 1.5
vbb212 bb212 0 dc 1.5
vbb213 bb213 0 dc 1.5
vbb214 bb214 0 dc 1.5
vbb215 bb215 0 dc 1.5
vbb216 bb216 0 dc 1.5
